US08466290B2
Synthesis of 2-chloro-4-quinolinecarboxylic acid methyl ester
Potassium carbonate (5.55 g, 40.2 mmol) and methyl iodide (1.88 mL, 30.2 mmol) were added to a DMF (25 mL) solution of commercially available 2-chloro-4-quinolinecarboxylic acid (4.17 g, 20.1 mmol), and the mixture was stirred overnight at room temperature in an argon atmosphere. The reaction solution was added to a saturated aqueous solution of sodium chloride, and the deposited crystal was collected by filtration, washed with water, and dried to obtain the title compound (3.53 g, 15.9 mmol) as a pale yellow solid.

reactant | Potassium carbonate | 40.2 mmol, 5.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 30.2 mmol, 1.88 mL | CI | CH3I
reactant | 2-chloro-4-quinolinecarboxylic acid | 20.1 mmol, 4.17 g | ClC1=NC2=CC=CC=C2C(=C1)C(=O)O | C10H6ClNO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-chloro-4-quinolinecarboxylic acid methyl ester | 15.9 mmol, 3.53 g | COC(=O)C1=CC(=NC2=CC=CC=C12)Cl | C11H8ClNO2
